US09255090B2
Synthesis of (3-hydroxy-4-propyl-phenyl)-acetic acid tert-butyl ester (C15H22O3, MW=250.16)
To a solution of [3-benzyloxy-4-(propenyl)-phenyl]-acetic acid tert-butyl ester (1.21 g, 3.21 mmol, 1 eq.) in THF (39 mL) under N2, palladium on activated carbon (10% wt., 121 mg) was added. The flask was carefully evacuated and refilled with H2 (3×). The black suspension was stirred at r.t. under an H2-atmosphere for 18 hours. The black suspension was filtered through Celite and the filter cake was rinsed with THF. The filtrate was concentrated in vacuo. The residue was purified by flashmaster (column: 100 g, flow: 45 mL/min, 50 fractions of 45 mL, Heptane 100% to Heptane+20% AcOEt) to yield the title compound as a colorless oil.

reactant | [3-benzyloxy-4-(propenyl)-phenyl]-acetic acid tert-butyl ester | 3.21 mmol, 1.21 g, 1 eq. | C(C)(C)(C)OC(CC1=CC(=C(C=C1)C=CC)OCC1=CC=CC=C1)=O | C22H26O3
solvent | THF | 39 mL | C1CCOC1 | C4H8O
catalyst | palladium on activated carbon | 121 mg | [Pd] | Pd
product | (3-hydroxy-4-propyl-phenyl)-acetic acid tert-butyl ester | C(C)(C)(C)OC(CC1=CC(=C(C=C1)CCC)O)=O | C15H22O3
